US07074801B1
Ethyl 1-(6-bromo-4-quinolyl)-4-piperidine carboxylate
500 mg 6-bromo-4-chloroquinoline and 340 mg ethyl 4-piperidine carboxylate were reacted by the same method as in Production Example 74, to give 480 mg of the title compound as a yellow oil.

reactant | 6-bromo-4-chloroquinoline | 500 mg | BrC=1C=C2C(=CC=NC2=CC1)Cl | C9H5BrClN
reactant | ethyl 4-piperidine carboxylate | 340 mg | N1CCC(CC1)C(=O)OCC | C8H15NO2
product | Ethyl 1-(6-bromo-4-quinolyl)-4-piperidine carboxylate | 480 mg | BrC=1C=C2C(=CC=NC2=CC1)N1CCC(CC1)C(=O)OCC | C17H19BrN2O2
